US04666932
N-Cyano-N'-[4-(imidazol-2-yl)-phenyl]-formamidine
A mixture of 2-(4-amino-phenyl)-1-H-imidazole (3.1 g), cyanamide (0.8 g) and triethyl orthoformate (3.6 g) was heated at 150° C. for a few minutes. The product which crystallized out was filtered off, washed with ethanol and dried to give 2.5 g of the title compound, M.p. 228°-229° C.

reactant | 2-(4-amino-phenyl)-1-H-imidazole | 3.1 g | NC1=CC=C(C=C1)C=1NC=CN1 | C9H9N3
reactant | cyanamide | 0.8 g | N#CN | CH2N2
reactant | triethyl orthoformate | 3.6 g | C(OCC)(OCC)OCC | C7H16O3
product | N-Cyano-N'-[4-(imidazol-2-yl)-phenyl]-formamidine | 2.5 g | C(#N)NC=NC1=CC=C(C=C1)C=1NC=CN1 | C11H9N5
